US06727264B1
N-(3-{1-[4,4-BIS(4-FLUOROPHENYL)BUTYL]-4-PIPERIDINYL}-4-METHYLPHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme AI using 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene and 2-methyl-N-[4-methyl-3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 505.0 (M+H)+.

reactant | 1-[4-chloro-1-(4-fluorophenyl)butyl]-4-fluorobenzene | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 2-methyl-N-[4-methyl-3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=C(C=C1)C)C1CCNCC1)C | C16H24N2O
product | N-(3-{1-[4,4-BIS(4-FLUOROPHENYL)BUTYL]-4-PIPERIDINYL}-4-METHYLPHENYL)-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)C1=CC=C(C=C1)F | C32H38F2N2O
